US05849757
7-[(3R)-3-(1-Aminocyclopropyl)-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A 322 mg (0.89 mmol) portion of (3R)-1-benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)pyrrolidine was dissolved in 10 ml of methanol to which was subsequently added 100 mg of 5% palladium-carbon to carry out 2 hours of hydrogenation under normal pressure with warming by an infrared lamp. After completion of the reaction, 5% palladium-carbon was removed by filtration and methanol was evaporated. The resulting residue was dissolved in 5 ml of acetonitrile to which were subsequently added 0.5 ml of triethylamine and 113 mg (0.4 mmol) of 6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, followed by 18 hours of heating under reflux. After completion of the reaction, the reaction solution was spontaneously cooled to collect the thus formed crystals by filtration. With cooling in an ice bath, to the thus obtained crystals was added dropwise 5 ml of concentrated hydrochloric acid, followed by 30 minutes of stirring at the same temperature. After completion of the reaction, the reaction solution was adjusted to pH 12 with sodium hydroxide aqueous solution and then to pH 7.4 with hydrochloric acid, followed by extraction with chloroform (50 ml×3). The organic layers were combined and dried on sodium sulfate, and then the solvent was evaporated. Thereafter, the resulting residue was recrystallized from liquid ammonia-ethanol to yield 120 mg (77%) of the title compound.

reactant | (3R)-1-benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)pyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)C1(CC1)NC(=O)OC(C)(C)C | C20H28N2O4
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.4 mmol, 113 mg | FC=1C=C2C(C(=CN(C2=CC1F)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H8F3NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 7-[(3R)-3-(1-Aminocyclopropyl)-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 120 mg, 77% | NC1(CC1)[C@H]1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C20H21F2N3O3
